US09226916B2
b) [(3S,4R)-4-(4-Chloro-phenyl)-1-(5′-cyano-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid ethyl ester
To a solution of 4-[(3R,4S)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbonitrile (30 mg, 0.07 mmol) in dichloromethane (1 mL) were added triethylamine (13 uL, 0.09 mmol) and ethyl chloroformate (9 uL, 0.09 mmol) and the reaction mixture was stirred at ambient temperature for 3 h. After concentration it was purified by chromatography affording the title compound (20 mg, 57%) as a colorless foam. MS m/e: 496.4 [M]+.

reactant | 4-[(3R,4S)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbonitrile | 0.07 mmol, 30 mg | ClC1=CC=C(C=C1)[C@@H]1CN(C[C@H]1NC)C(=O)C1CCN(CC1)C1=NC=C(C=C1)C#N | C23H26ClN5O
reactant | triethylamine | 0.09 mmol, 13 uL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.09 mmol, 9 uL | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | [(3S,4R)-4-(4-Chloro-phenyl)-1-(5′-cyano-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid ethyl ester | 20 mg, 57% | C(C)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCN(CC1)C1=NC=C(C=C1)C#N)=O | C26H30ClN5O3
